US05780474
1-{2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)piperid-1-yl]ethyl}imidazolidin-2-one
21.4 g (0.144 mol) of 1-(2-chloroethyl)imidazolidin-2-one, 23.6 g (0.107 mol) of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine, 92.9 g (0.67 mol) of potassium carbonate, 2.6 g of potassium iodide and 524 ml of methyl isobutyl ketone are placed in a three-necked flask. Refluxing is carried out for one night, and then the reaction mixture is concentrated and taken up in a mixture of water/ethyl acetate. Decanting is carried out, and the organic phase is washed several times with water and then extracted with a normal solution of hydrochloric acid. The acidic phase is then rendered basic with sodium hydroxide solution and extracted with methylene chloride. Drying is carried out over MgSO4. After evaporation, the residue is recrystallised from 80 ml of acetonitrile to yield 22 g of a solid that corresponds to the expected product. M.p.=137°-141° C. (Yield=46%).

reactant | 1-(2-chloroethyl)imidazolidin-2-one | 0.144 mol, 21.4 g | ClCCN1C(NCC1)=O | C5H9ClN2O
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 0.107 mol, 23.6 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | potassium carbonate | 0.67 mol, 92.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.6 g | [I-].[K+]
solvent | methyl isobutyl ketone | 524 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-{2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)piperid-1-yl]ethyl}imidazolidin-2-one | 22 g, Yield=46% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(NCC2)=O)C=C1 | C17H21FN4O2
